US04855086
Butyl lithium in hexane (30 mmol) was added to phenylacetylene (3.29 ml, 30 mmol) in dry THF (20 ml) at -78° C. The mixture was allowed to reach room temperature, cooled to 78° C. and 2-chloromethoxyethyl benzoate (6.4 g 30 mmol) added. The mixture was kept at 0° C. for 24 hours, quenched with water and extracted into ether. The crude product obtained from the organic phase was treated with 8% sodium hydroxide in ethanol (100 ml) and heated under reflux for 0.5 hours. The crude product was poured into water and extracted into ether. The ether extracts were washed with water, dried and the solvent removed to give 5 g of 2-(3-phenyl-2-propynoxy)ethanol.

reactant | Butyl lithium | C(CCC)[Li]
reactant | hexane | 30 mmol | CCCCCC | C6H14
reactant | phenylacetylene | 30 mmol, 3.29 ml | C1(=CC=CC=C1)C#C | C8H6
reactant | 2-chloromethoxyethyl benzoate | 30 mmol, 6.4 g | C(C1=CC=CC=C1)(=O)OCCOCCl | C10H11ClO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-(3-phenyl-2-propynoxy)ethanol | 5 g | C1(=CC=CC=C1)C#CCOCCO | C11H12O2
